US05753665
A mixture of 3-(2,4-dichlorophenoxy)-2-butanone (4.66 g) and N,N-dimethylformamide dimethylacetal (2.38 g) was heated under argon in an oil bath at 120° C. for 11 hours. The methanol produced in the reaction was removed under reduced pressure and the residue was triturated with n-hexane. The solid was collected by filtration and washed with cold diethyl ether to give 4-(2,4-dichlorophenoxy)-1-(dimethylamino)-1-penten-3-one. Yield 4.07 g.

reactant | 3-(2,4-dichlorophenoxy)-2-butanone | 4.66 g | ClC1=C(OC(C(C)=O)C)C=CC(=C1)Cl | C10H10Cl2O2
reactant | N,N-dimethylformamide dimethylacetal | 2.38 g | COC(N(C)C)OC | C5H13NO2
solvent | methanol | CO | CH4O
product | 4-(2,4-dichlorophenoxy)-1-(dimethylamino)-1-penten-3-one | ClC1=C(OC(C(C=CN(C)C)=O)C)C=CC(=C1)Cl | C13H15Cl2NO2
